US07265246B2
Combine methyl 4-bromo-2-fluorobenzoate (3.66 g, 15.75 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolanyl (5.0 g, 19.68 mmol) and potassium acetate (4.63 g, 47.19 mmol) in dimethylsulfoxide (40 mL) and purge the solution with argon. Add PdCl2(1,1′-bis(diphenylphosphino)ferrocene)2 (10 mol %, 1.35 g) and purge the solution with argon again. Heat the reaction to 80° C. for 3 hours and cool to room temperature. Wash the reaction with water and extract with ethyl acetate and concentrate. The resulting black oil is re-dissolved in 1:2 ethyl acetate:hexanes, filtered through a short plug of silica gel, and concentrated. 2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid methyl ester is obtained as a yellow oil.

reactant | methyl 4-bromo-2-fluorobenzoate | 15.75 mmol, 3.66 g | BrC1=CC(=C(C(=O)OC)C=C1)F | C8H6BrFO2
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolanyl | 19.68 mmol, 5.0 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 47.19 mmol, 4.63 g | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid methyl ester | COC(C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)=O | C14H18BFO4
